US04898867
A 1 g quantity of ethyl 2-ethoxycarbonylamino-4,5-dimethyl-3-thiophenecarboxylate and 1 g of 4-chlorobenzylamine were dissolved in a mixture of 3 ml of ethanol and 1 ml of N,N-dimethylformamide and the mixture was allowed to react in a sealed tube at 230° C. for 7 hours. The reaction mixture was concentrated and the residue was recrystallized from an acetone-ethanol-dimethylformamide mixture, giving 0.8 g of 3-(4-chlorobenzyl)-5,6-dimethylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione having a melting point of 291° to 292° C. in a yield of 68%.

reactant | ethyl 2-ethoxycarbonylamino-4,5-dimethyl-3-thiophenecarboxylate | C(C)OC(=O)NC=1SC(=C(C1C(=O)OCC)C)C | C12H17NO4S
reactant | 4-chlorobenzylamine | 1 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-(4-chlorobenzyl)-5,6-dimethylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | 0.8 g, yield of 68% | ClC1=CC=C(CN2C(NC3=C(C2=O)C(=C(S3)C)C)=O)C=C1 | C15H13ClN2O2S
